US08497383B2
Step 10 tert-Butyl (2-{[(3R,4R)-1-benzyl-4-{(3-methylbutyl)[(4-nitrophenyl)sulfonyl]amino}pyrrolidin-3-yl]amino}ethyl)carbamate
To a solution of N-[(3R,4R)-4-amino-1-benzylpyrrolidin-3-yl]-N-methyl-4-nitrobenzenesulfonamide (692 mg, 1.5 mmol) in MeOH was added K2CO3 (405 mg, 3 mmol) and the mixture was stirred for 0.5 hour at room temperature. To this mixture, Boc-amino glycinal (1.8 mmol) was added following by addition of a solution of NaBH3CN (111 mg, 1.8 mmol) and ZnCl2 (0.6 eq) in MeOH at room temperature. The reaction mixture was stirred at room temperature overnight, quenched with 1N aqueous NaOH, extracted with CHCl3, the combined organic extracts were dried with Na2SO4 and evaporated. The residue was purified by column chromatography on silica gel eluting with 2-5% MeOH in CHCl3 giving the desired product.

reactant | N-[(3R,4R)-4-amino-1-benzylpyrrolidin-3-yl]-N-methyl-4-nitrobenzenesulfonamide | 1.5 mmol, 692 mg | N[C@H]1[C@@H](CN(C1)CC1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C18H22N4O4S
reactant | K2CO3 | 3 mmol, 405 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Boc-amino glycinal | 1.8 mmol | C(=O)(OC(C)(C)C)N(CC=O)N | C7H14N2O3
reactant | NaBH3CN | 1.8 mmol, 111 mg | [BH3-]C#N.[Na+]
solvent | MeOH | CO | CH4O
catalyst | ZnCl2 | 0.6 eq | [Cl-].[Cl-].[Zn+2]
product | tert-Butyl (2-{[(3R,4R)-1-benzyl-4-{(3-methylbutyl)[(4-nitrophenyl)sulfonyl]amino}pyrrolidin-3-yl]amino}ethyl)carbamate | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CCC(C)C)NCCNC(OC(C)(C)C)=O | C29H43N5O6S
